US09388189B2
(S)-4-Amino-6-((1-(5-(3-hydroxybenzyl)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carbonitrile
(S)-4-Amino-6-((1-(5-(3-methoxybenzyl)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carbonitrile (72 mg, 0.15 mmol) was treated with boron tribromide (1M in dichloromethane, 580 μl, 0.58 mmol) with dichloromethane as a solvent according to the method described in Example 23. The residue was purified by reverse phase using SP1® Purification System to give 27 mg (39% yield) as a solid. Purity 98%.

reactant | (S)-4-Amino-6-((1-(5-(3-methoxybenzyl)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carbonitrile | 0.15 mmol, 72 mg | NC1=NC=NC(=C1C#N)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)CC2=CC(=CC=C2)OC | C27H24N8O2
reactant | boron tribromide | 0.58 mmol, 1M, 580 μl | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-4-Amino-6-((1-(5-(3-hydroxybenzyl)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carbonitrile | 39% yield | NC1=NC=NC(=C1C#N)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)CC2=CC(=CC=C2)O | C26H22N8O2
